US05037970
1.6 g of 2-(1,4,5-trimethoxy-2-naphthylcarbonyl)-5-(2-methyl-dioxolan-2-yl)-6-oxa-bicyclo[3,2,1]octan-7-one, prepared as described in Example 4, was dissolved in methanol and treated at room temperature for 1 hour with a 1N solution of hydrogen chloride in anhydrous methanol. After evaporating off the solvent, there was obtained in almost quantitative yield 1.5 g of 1-1,4,5-trimethoxy-3-naphthylcarbonyl)-2-methoxycarbonyl-4-acetyl-4-hydroxy-cyclohexane (X, R=OCH3). m/z 444 (M+.); IR (film): 3460 cm-1 (OH), 1730 cm-1 (C=O ester, 1710 cm-1 (C=O ketone) and 1665 cm-1 (C=O benzylic ketone). PMR (CDCl3): inter alia 2.3 (s, CH3CO), 3.75-4.05 (s, four OCH3), 6.8 (s, aromatic H) and 6.85-8.0 (m, three aromatic H). 1.5 g of this compound was dissolved in 15 mo of trifluoroacetic acid and refluxed with 1.4 ml of pyridine-borane complex. After removal of the solvent, the residue was treated with a 10% aqueous solution of sodium hydroxide. After mild acidification the free acid was extracted with ethyl acetate. The solvent was evaporated off and the residue was directly treated with an ethereal solution of phenyldiazomethane to give the title product. This was purified by chromatography: m/z 508 (M+.); PMR (CDCl3): inter alia 1.25 (d, CH3 --CH), 3.70-3.95 (s, three OCH3), 5.15 (d, CH2Ph) and 6.4-8.1 (m, nine aromatic H).

reactant | 2-(1,4,5-trimethoxy-2-naphthylcarbonyl)-5-(2-methyl-dioxolan-2-yl)-6-oxa-bicyclo[3,2,1]octan-7-one | 1.6 g | COC1=C(C=C(C2=C(C=CC=C12)OC)OC)C(=O)C1C2C(OC(CC1)(C2)C2(OCCO2)C)=O | C25H28O8
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | 2-methoxycarbonyl-4-acetyl-4-hydroxy-cyclohexane | COC(=O)C1CCCC(C1)(O)C(C)=O | C10H16O4
